US08865712B2
f) Methanesulfonic acid 2-azido-1-(2-bromo-5-fluoro-pyridin-4-yl)-1-methyl-ethyl ester
At 0° C., methanesulfonyl chloride (2.04 ml, 3.00 g, 26.20 mmol) was dropwise added to a solution of 1-azido-2-(2-bromo-5-fluoro-pyridin-4-yl)-propan-2-ol (6.00 g, 21.81 mmol) and NEt3 (3.65 ml, 2.65 g, 26.2 mmol) in DCM (200 ml). The reaction mixture was stirred at 0° C. for 1 h, then for another 1 h at 0° C. to rt. The reaction mixture was quenched with 1M aq. NaHCO3 soln. and diluted with DCM. The phases were separated and the aq. phase was twice reextracted with DCM. The combined org. phases were dried over Na2SO4, filtered and concentrated. HPLC purification (Alltech Grom Saphir 65 Si 10 μM column, 250×50 mm, gradient n-heptane:EtOAc 0-1.6 min 85:15, 1.6-16 min 0:100, 16-21.2 min 0:100, flow 100 ml/min, detection 254 nm) yielded the title compound as well as recovered starting material that could be reacted again according to the above procedure. HPLC RtH4=0.96 min; ESIMS: 353, 355 [(M+H)+]; 1H NMR (400 MHz, CDCl3): b 8.28 (d, 1H), 7.56 (d, 1H), 4.08 (d, 1H), 3.82 (d, 1H), 3.22 (s, 3H), 2.13 (s, 3H).

reactant | methanesulfonyl chloride | 26.20 mmol, 2.04 ml, 3.00 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-azido-2-(2-bromo-5-fluoro-pyridin-4-yl)-propan-2-ol | 21.81 mmol, 6.00 g | N(=[N+]=[N-])CC(C)(O)C1=CC(=NC=C1F)Br | C8H8BrFN4O
reactant | NEt3 | 26.2 mmol, 3.65 ml, 2.65 g | CCN(CC)CC | C6H15N
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-azido-1-(2-bromo-5-fluoro-pyridin-4-yl)-1-methyl-ethyl ester | N(=[N+]=[N-])CC(C)(C1=CC(=NC=C1F)Br)OS(=O)(=O)C | C9H10BrFN4O3S
